US05686486
N-Phenyl-3-(cyclopropylhydroxymethyl)-benzenesulfonamide (Formula BBB-3 wherein aryl is phenyl) Refer to Chart BBB
To a solution of 970 mg of N-phenyl-3-bromo-benzenesulfonamide, readily prepared from commercially available 3-bromo-benzene sulfonyl chloride, in 55 mL of anhydrous tetrahydrofuran under nitrogen at -78° C. is added 1.9 mL of a 1.6M solution of n-butyllithium in hexane. The solution is stirred for 10 min and then an additional 1.9 mL of n-butyllithium (1.6M in hexane) is added. The solution is stirred for 10 min and then 0.35 mL of cyclopropane carboxaldehyde is added. The solution is stirred for 1 h 30 min and then treated with water and ethyl acetate. The solution is treated with 5% aqueous hydrochloric acid and brine. The layers are separated and the aqueous is extracted with two portions of ethyl acetate. The combined organic layers are dried sodium sulfate (Na2SO4) and concentrated to afford an oil which is chromatographed over silica (eluted with 5% methanol/dichloromethane) to afford 517 mg (55%) of the title product as a clear oil.

reactant | N-phenyl-3-bromo-benzenesulfonamide | 970 mg | C1(=CC=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)Br | C12H10BrNO2S
reactant | 3-bromo-benzene sulfonyl chloride | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-butyllithium | 1.6M, 1.9 mL | C(CCC)[Li]
reactant | cyclopropane carboxaldehyde | 0.35 mL | C1(CC1)C=O | C4H6O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 55 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-Phenyl-3-(cyclopropylhydroxymethyl)-benzenesulfonamide | 517 mg, 55% | C1(=CC=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)C(O)C1CC1 | C16H17NO3S
